US05245046
Sodium α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetate
A mixture of 3 g (6.84 mmoles) of α-[3-(trifluoromethyl)benzylamino]-1-benzylindole 3-acetic acid, 3.4 ml (6.80 mmoles) of 2N NaOH, and 100 ml of MeOH was warmed until a solution was obtained (one to two hours). The solvent was evaporated. The residue was dried in a vacuum oven at 66° for 70 hours giving 2.70 (86%) of the title compound as an orange solid, m.p. 210°-215°.

reactant | α-[3-(trifluoromethyl)benzylamino]-1-benzylindole 3-acetic acid | 6.84 mmoles, 3 g | FC(C=1C=C(CNC(C(=O)O)C2=CN(C3=CC=CC=C23)CC2=CC=CC=C2)C=CC1)(F)F | C25H21F3N2O2
reactant | NaOH | 6.80 mmoles, 2N, 3.4 ml | [OH-].[Na+]
solvent | MeOH | 100 ml | CO | CH4O
product | Sodium α-[3-(trifluoromethyl)benzylamino]-1-benzylindole-3-acetate | FC(C=1C=C(CNC(C(=O)[O-])C2=CN(C3=CC=CC=C23)CC2=CC=CC=C2)C=CC1)(F)F.[Na+] | InChI=1S/C25H21F3N2O2.Na/c26-25(27,28)19-10-6-9-18(13-19)14-29-23(24(31)32)21-16-30(15-17-7-2-1-3-8-17)22-12-5-4-11-20(21)22;/h1-13,16,23,29H,14-15H2,(H,31,32);/q;+1/p-1
